US04382892
2.3 g (7.9 mmols) of 2-acetonyloxy-4-chloro-3-fluoronitrobenzene was dissolved in 30 ml of ethanol and catalytically reduced in the presence of 2 g of Raney nickel. After completion of the reduction, the catalyst was removed by filtration, and the filtrate was concentrated. The resulting residue was purified by silica gel (20 g) column chromatography using chloroform as an eluant to provide 1.2 g (75.5% yield) of 7-chloro-8-fluoro-3-methyl-2,3-dihydro-4H-1,4-benzoxazine as an oil.

reactant | 2-acetonyloxy-4-chloro-3-fluoronitrobenzene | 7.9 mmols, 2.3 g | C(C(=O)C)OC1=C(C=CC(=C1F)Cl)[N+](=O)[O-] | C9H7ClFNO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 7-chloro-8-fluoro-3-methyl-2,3-dihydro-4H-1,4-benzoxazine | 1.2 g, 75.5% yield | ClC1=C(C2=C(NC(CO2)C)C=C1)F | C9H9ClFNO
